US04894458
1-Ethyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylic acid
A mixture of ethyl 1-ethyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylate (0.96 g), concentrated sulfuric acid (0.5 ml) and acetic acid (4 ml) in water (4 ml) was stirred for 70 minutes on an oil bath at 100° C. The reacting mixture was poured into ice-water (25 ml), the resulting precipitate was collected by filtration, washed with water sufficiently to give the title compound (0.8 g) as colorless flakes, mp 219°-221° C.

reactant | ethyl 1-ethyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylate | 0.96 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)OCC | C15H15F2NO3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | 4 ml | O | H2O
product | 1-Ethyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylic acid | 0.8 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)O | C13H11F2NO3
